US08404436B1
(i) Ethyl 4,6-diphenyl-3-(3-ethoxy-3-oxopropyl)-1H-indole-2-carboxylate
Ethyl 4,6-dibromo-3-(3-ethoxy-3-oxopropyl)-1H-indole-2-carboxylate (0.244 g, 0.5 mmol), phenylboronic acid (0.147 g, 1.2 mmol, 2.4 equiv.) and potassium phosphate trihydrate (0.400 g, 1.5 mmol, 3.0 equiv.) were mixed together in a 10 ml microwave vial. The vial was purged with Argon and trans-dichlorobis(triphenylphosphine)-palladium (II) (0.021, 0.03 mmol, 6 mol %) and 5 ml of dry dioxane were added to the mixture. The microwave vial was capped and irradiated at 100 watt, 150° C., under pressure up to 10 bars. Then it was allowed to cool down to rt, and toluene was removed under reduced pressure and the residue was dissolved in dichloromethane and washed with water. The organic layer was dried over magnesium sulfate, filtered, and evaporated to dryness. The residue was purified by silica gel column chromatography using 20% of ethyl acetate/cyclohexane as eluent to yield a light-beige-colored solid in 60-70%. 1H-NMR (DMSO-d6) δ 1.09, 1.32 (each t, 3H, 3J=7.1 Hz, CH3); 2.11 (m, 2H, 2′-H); 2.84 (m, 2H, 1′-H); 3.89, 4.33 (each q, 2H, 4J=7.1 Hz, CH2); 7.12 (d, 1H, 2J=1.6 Hz, 7-H); 7.35 (t, 1H, 3J=7.4 Hz, Ph-ring); 7.43 (m, 7H, Ph-ring); 7.67 (d, 1H, 2J=0.9 Hz, 5-H); 7.68 (d, 1H, 2J=1.6 Hz, Phenyl-ring); 11.84 (s, 1H, NH). 13C-NMR (DMSO-d6) δ 14.2, 14.3 (2CH3, each C═OOCH2CH3); 20.5 (C-2′); 34.8 (C-1′); 59.5, 60.5 (2CH2, each C═OOCH2CH3); 109.6 (C-5); 121.1 (C-7); 121.8 (C-3); 123.6 (C-2); 124.7 (C-3a); 127.0 (C-2″, C-6″); 127.4 (C-4″′); 127.5 (C-4″); 128.0 (C-3′″, C-5″′); 129.0 (C-3″, C-5″); 129.1 (C-2′″, C-6″′); 136.7 (C-7a); 137.4 (C-4), 137.6 (C-6); 140.7 (C-1″); 140.8 (C-1′″); 161.5 (2′-CO2Et); 171.7 (2-CO2Et). LC-MS (m/z): 442 [M]+, 440 [M]−. Purity (LC-MS): 96%.

reactant | Ethyl 4,6-dibromo-3-(3-ethoxy-3-oxopropyl)-1H-indole-2-carboxylate | 0.5 mmol, 0.244 g | BrC1=C2C(=C(NC2=CC(=C1)Br)C(=O)OCC)CCC(=O)OCC | C16H17Br2NO4
reactant | phenylboronic acid | 1.2 mmol, 0.147 g, 2.4 equiv. | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium phosphate trihydrate | 1.5 mmol, 0.400 g, 3.0 equiv. | O.O.O.P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | trans-dichlorobis(triphenylphosphine)-palladium (II) | 0.03 mmol | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | Ethyl 4,6-diphenyl-3-(3-ethoxy-3-oxopropyl)-1H-indole-2-carboxylate | C1(=CC=CC=C1)C1=C2C(=C(NC2=CC(=C1)C1=CC=CC=C1)C(=O)OCC)CCC(=O)OCC | C28H27NO4
